US06010681
1,4,7-Tri-tertbutoxycarbonylmethyl-10-methoxycarbonylmethyl-1,4,7,10-tetraazacyclododecane
1,4,7-Tri-tertbutoxycarbonylmethyl-1,4,7,10-tetraazacyclododecane hydrobromide (25.0 g, 42 mmol) was slurried in acetonitrile and treated with TMG (70 mL). Methyl bromoacetate (6.5 g, 42 mmol) was added in one portion, and the mixture was refluxed for 3 hours. After stirring at ambient temperature for an additional 18 hours, the solvent and excess TMG were removed by rotary evaporation. The residue was dissolved in CHCl3, washed with water, and dried (Na2SO4). Evaporation of the solvent afforded the title product as a pale oil (23 g, 95%). 1H NMR (CDCl3): 1.4 (s, 27 H) , 2.8 (s, 16 H), 3.2 (s, 6 H), 3.4 (s 2 H), 3.6 (s, 3 H).

reactant | 1,4,7-Tri-tertbutoxycarbonylmethyl-1,4,7,10-tetraazacyclododecane hydrobromide | 42 mmol, 25.0 g | Br.C(C)(C)(C)OC(=O)CN1CCN(CCN(CCNCC1)CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C
reactant | Methyl bromoacetate | 42 mmol, 6.5 g | BrCC(=O)OC | C3H5BrO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,4,7-Tri-tertbutoxycarbonylmethyl-10-methoxycarbonylmethyl-1,4,7,10-tetraazacyclododecane | 23 g, 95% | C(C)(C)(C)OC(=O)CN1CCN(CCN(CCN(CC1)CC(=O)OC)CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C29H54N4O8
